US08426412B2
E. 6-(5-Chloropyridin-2-yl)-4,5-dihydropyridazin-3(2H)-one
To a dry 200 mL flask equipped with magnetic stirrer, and reflux condenser was charged 3.7 g ethyl 4-(5-chloropyridin-2-yl)-4-oxobutanoate (0.0153 mol), 75 mL ethanol, and 0.8 g of hydrazine hydrate (0.0168 mol). The reaction was heated at reflux for about 2 hours. An aliquot was analyzed by GC which indicated no remaining starting material, and one major product. The reaction was cooled and poured into about 200 mL of water to afford a tan solid which was collected by vacuum filtration, washed with water, hexane, and dried overnight in vacuo at 40° C. Isolated 2.6 g of a tan solid. The NMR data is as follows: 300 MHz 1H NMR (CDCl3, TMS=0 ppm) 2.65 (t, 2H); 3.22 (t, 2H), 7.75 (d, 1H); 8.00 (d, 1H); 8.60 (s, 1H); 8.70 (bs, 1H). The sample was stored in the refrigerator and had 81% isolated yield.

reactant | ethyl 4-(5-chloropyridin-2-yl)-4-oxobutanoate | 0.0153 mol, 3.7 g | ClC=1C=CC(=NC1)C(CCC(=O)OCC)=O | C11H12ClNO3
reactant | ethanol | 75 mL | C(C)O | C2H6O
reactant | hydrazine hydrate | 0.0168 mol, 0.8 g | O.NN
solvent | water | about 200 mL | O | H2O
product | 6-(5-Chloropyridin-2-yl)-4,5-dihydropyridazin-3(2H)-one | 2.6 g | ClC=1C=CC(=NC1)C=1CCC(NN1)=O | C9H8ClN3O
